US08859768B2
A mixture of N-(5-methyl-4-nitro-1-oxidopyridin-2-yl)acetamide (3.1 g, 14.7 mmol) and Pd(OH)2 (20% on carbon, 1.6 g) in MeOH (80 mL) was allowed to stir under 40 psi of hydrogen at rt for 6 days. The reaction mixture was then filtered over celite and the filter cake was washed with DCM. The filtrate was concentrated to give N-(4-amino-5-methylpyridin-2-yl)acetamide (2.1 g, 86%) which was used without further purification.

reactant | N-(5-methyl-4-nitro-1-oxidopyridin-2-yl)acetamide | 14.7 mmol, 3.1 g | CC=1C(=CC(=[N+](C1)[O-])NC(C)=O)[N+](=O)[O-] | C8H9N3O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 80 mL | CO | CH4O
catalyst | Pd(OH)2 | 1.6 g | [OH-].[OH-].[Pd+2]
product | N-(4-amino-5-methylpyridin-2-yl)acetamide | 2.1 g, 86% | NC1=CC(=NC=C1C)NC(C)=O | C8H11N3O
